US08232294B2
Step 1) (S)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(dimethylamino)acetate
To a mixture of (S)—N-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)-phenyl-1-(2-hydro-xylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (0.54 g, 1 mmol), N,N-dimethylglycine (0.206 g, 2 mmol, Alfa) and DMAP (0.244 g, 2 mmol, Aladdin) in 15 mL of CH2Cl2 at 0° C. was added EDC solid (0.575 g, 3 mmol, Aladdin) in portions. The mixture was continued to stir at 0° C. for 2 hrs, then the reaction mixture was warmed up to room temperature and stirred at rt for 20 hrs. The reaction mixture was diluted with 100 mL of CH2Cl2 and washed with 0.1 N HCl (10 mL×2), followed by saturated NaHCO3 (20 mL×2) and water (20 mL×8), and the aqueous phase was extracted with EtOAc(15 mL×2). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc) to afford the title compound as a yellow solid (0.387 g, 61.6%).

reactant | 3-fluoro-4-(7-methoxyquinolin-4-yloxy)-phenyl-1-(2-hydro-xylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 1 mmol, 0.54 g | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)NC(=O)C=1C(N(N(C1C)CC(C)O)C1=CC=CC=C1)=O | C30H27FN4O5
reactant | N,N-dimethylglycine | 2 mmol, 0.206 g | CN(CC(=O)O)C | C4H9NO2
reactant | EDC | 3 mmol, 0.575 g
catalyst | DMAP | 2 mmol, 0.244 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(4-(3-fluoro-4-(7-methoxyquinolin-4-yloxy)phenylcarbamoyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydropyrazol-1-yl)propan-2-yl 2-(dimethylamino)acetate | 0.387 g, 61.6% | CN(CC(=O)O[C@H](CN1N(C(C(=C1C)C(NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=CC=C12)OC)F)=O)=O)C1=CC=CC=C1)C)C | C34H34FN5O6
